US07186734B2
5-Butyl-3-chloro-4-chloromethyl-6-phenyl-pyridazine hydrochloride.
To a solution of 4-butyl-6-chloro-5-hydroxymethyl-3-phenyl-pyridazine (0.32 g, 1.16 mmol) in CH2Cl2 (5 mL) is added SOCl2 (2 mL). The resulting clear solution is stirred at room temperature for 3 hours. The solvent is removed in vacuo and the residue is dissolved in toluene (5 mL) and evaporated to remove the remaining SOCl2. The resulting semi-solid is used directly for the next step. LC-MS (M+1) 295.

reactant | 4-butyl-6-chloro-5-hydroxymethyl-3-phenyl-pyridazine | 1.16 mmol, 0.32 g | C(CCC)C1=C(N=NC(=C1CO)Cl)C1=CC=CC=C1 | C15H17ClN2O
reactant | SOCl2 | 2 mL | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-Butyl-3-chloro-4-chloromethyl-6-phenyl-pyridazine hydrochloride | Cl.C(CCC)C=1C(=C(N=NC1C1=CC=CC=C1)Cl)CCl | InChI=1S/C15H16Cl2N2.ClH/c1-2-3-9-12-13(10-16)15(17)19-18-14(12)11-7-5-4-6-8-11;/h4-8H,2-3,9-10H2,1H3;1H
